US07504401B2
To a solution of 0.220 g (1.47 mmol) of 3-nitro-2-vinyl-pyridine dissolved in 1:1 methanol/ethyl acetate was added 0.010 g of Pd/C. The resulting mixture was hydrogenated overnight at 50 psi. Filtration and removal of solvent provided 0.160 g (89% yield) of 2-ethyl-pyridin-3-ylamine.

reactant | 3-nitro-2-vinyl-pyridine | 1.47 mmol, 0.220 g | [N+](=O)([O-])C=1C(=NC=CC1)C=C | C7H6N2O2
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
catalyst | Pd/C | 0.010 g | [Pd] | Pd
product | 2-ethyl-pyridin-3-ylamine | 0.160 g, 89% yield | C(C)C1=NC=CC=C1N | C7H10N2
